US07592477B2
Step a) Formation of N-(1,1′-biphenyl-3-ylmethyl)-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 1,1′-biphenyl-3-ylmethylamine hydrobromide gave the title compound as an oil. M+(LC/MS(ESI)): 496.5. HPLC (Condition A), Rt: 4.99 min (HPLC purity: 90.9%).

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | 1,1′-biphenyl-3-ylmethylamine hydrobromide | Br.C1(=CC(=CC=C1)CN)C1=CC=CC=C1
product | N-(1,1′-biphenyl-3-ylmethyl)-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | C1(=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)C1=CC=CC=C1 | C33H41N3O
